US08334236B2
(1) Production of methyl 2-(trifluoromethylsulfonyloxy)nicotinate
10.3 g (70 mmol) of methyl 2-hydroxynicotinate was dissolved in 300 mL of dichloromethane, and 7.8 g (77 mmol) of triethylamine was added thereto. 20.9 g (74 mmol) of trifluoromethanesulfonic acid anhydride was added dropwise to the above mixture at −60° C., and the resulting mixture was further allowed to react for 30 minutes at −60° C. The reaction mixture was poured into water, and the mixture was extracted with dichloromethane. The organic phase was washed with water, and then was dried and concentrated. The residue was purified by column chromatography (ethyl acetate:n-hexane=1:4), and thus 12.8 g of the title compound was obtained as a pale yellow liquid (yield: 67%).

reactant | methyl 2-hydroxynicotinate | 70 mmol, 10.3 g | OC1=C(C(=O)OC)C=CC=N1 | C7H7NO3
reactant | triethylamine | 77 mmol, 7.8 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 74 mmol, 20.9 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | methyl 2-(trifluoromethylsulfonyloxy)nicotinate | 12.8 g | FC(S(=O)(=O)OC1=C(C(=O)OC)C=CC=N1)(F)F | C8H6F3NO5S
